US04945098
3-Octadecyloxycarbonyloxy-1-[6-(triphenylmethoxy)hexyloxyl]-2-methylenepropane
A mixture of 3-[6-(triphenylmethoxy)hexyloxy]-2-metylenepropane-1-ol (from Preparation 46) (1.5 g) and pyridine (4.5 ml) in methylene chloride (15 ml) was cooled in an ice/water bath and octadecyloxycarbonyl chloride (1.3 g) was added. After stirring for 10 minutes at 0° C. the temperature was raised to 22° C. for 5 hours. Ether (15 ml) was added, and the mixture was filtered. The filtrate was evaporated to dryness in vacuo, and the residue was purified through a column of silica gel 60 (70-230 mesh, 15 g) eluting with ether/methylene chloride 1:1. Further purification was achieved by chromatography on Waters PrepLC®/System 500A using a prepPAK®-500/SILICA cartridge with ether/methylene chloride/pentane 1:1:3 as eluent.

reactant | 3-[6-(triphenylmethoxy)hexyloxy]-2-metylenepropane-1-ol | 1.5 g | C1(=CC=CC=C1)C(OCCCCCCOCC(CO)=C)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34O3
reactant | pyridine | 4.5 ml | N1=CC=CC=C1 | C5H5N
reactant | octadecyloxycarbonyl chloride | 1.3 g | C(CCCCCCCCCCCCCCCCC)OC(=O)Cl | C19H37ClO2
reactant | Ether | 15 ml | CCOCC | C4H10O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-Octadecyloxycarbonyloxy-1-[6-(triphenylmethoxy)hexyloxyl]-2-methylenepropane | C(CCCCCCCCCCCCCCCCC)OC(=O)OCC(COCCCCCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C | C48H70O5
